US07579355B2
tert-butyl 4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (4A-2)
A mixture of tert-butyl 4-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (4A-1; 0.050 g, 0.148 mmol) in saturated NH3 in EtOH (1 mL) was heated to 80° C. for 30 min. in the microwave. The mixture was cooled, concentrated, and dried in vacuo. Used without further purification. 1H-NMR (500 MHz, CDCl3) δ 8.38 (s, 1H), 7.93 (s, 1H), 5.60 (bs, 2H), 4.84-4.95 (m, 1H), 4.29 (bs, 2H), 2.95 (bs, 2H), 2.13-2.28 (m, 2H), 1.92-2.03 (m, 2H). LRMS m/z (M+H) Calcd: 319.1, found: 319.1.

reactant | tert-butyl 4-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 0.148 mmol, 0.050 g | ClC1=C2C(=NC=N1)N(N=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C15H20ClN5O2
reactant | NH3 | N | H3N
solvent | EtOH | 1 mL | CCO | C2H6O
product | tert-butyl 4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | NC1=C2C(=NC=N1)N(N=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C15H22N6O2
